US06602884B2
A solution containing 16.3 g of (4RS)-4-allyl-1-benzyloxycarbonylpiperidin-3-one in 200 cm3 of toluene was stirred under reflux with methyl (triphenylphosphoranylidene)acetate, under an inert atmosphere, for 16 hours. After cooling to about 20° C., the reaction mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C., the residue obtained, solubilized in 50 cm3 of dichloromethane in the hot state, was purified by chromatography, under a nitrogen pressure of 50 kPa, on a column of silica gel (particle size 20-45 μ; diameter 10 cm; height 45 cm), eluting with a cyclohexane-ethyl acetate (80/20 by volume) mixture. 250-cm3 fractions were collected. Fractions 13 to 15 were combined and then concentrated as above. 5.8 g of methyl (4RS)-4-allyl-1-benzyloxycarbonylpiperidin-3-ylidenacetate (Z isomer) were obtained in the form of a colorless oil.

reactant | (4RS)-4-allyl-1-benzyloxycarbonylpiperidin-3-one | 16.3 g | C(C=C)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)=O | C16H19NO3
reactant | methyl (triphenylphosphoranylidene)acetate | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | toluene | 200 cm3 | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | methyl (4RS)-4-allyl-1-benzyloxycarbonylpiperidin-3-ylidenacetate | 5.8 g | C(C=C)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)=CC(=O)OC | C19H23NO4
